US04992090
A solution of 28.6 g of 5,6-dihydro-5-methyl-4H-cyclopenta[b]thiophen-4-one in 210 ml of tert.-butanol is added dropwise at from +25° to +30° C. to a solution of 23.1 g of potassium tert.-butanolate in 250 ml of tert.-butanol. The dark reddish-brown solution is stirred for 1.5 hours, and then 12.9 ml of methyl iodide are added. After stirring for 1 hour, the reddish-brown suspension is filtered and the filtrate is concentrated by evaporation. After distillation of the residue there are obtained 26.0 g of 5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-one in the form of a colourless oil having a boiling point of 43° C. at 0.03 mbar.

reactant | 5,6-dihydro-5-methyl-4H-cyclopenta[b]thiophen-4-one | 28.6 g | CC1C(C2=C(SC=C2)C1)=O | C8H8OS
reactant | potassium tert.-butanolate | 23.1 g | C(C)(C)(C)[O-].[K+]
reactant | methyl iodide | 12.9 ml | CI | CH3I
solvent | tert.-butanol | 210 ml | C(C)(C)(C)O | C4H10O
solvent | tert.-butanol | 250 ml | C(C)(C)(C)O | C4H10O
product | 5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-one | 26.0 g | CC1(C(C2=C(SC=C2)C1)=O)C | C9H10OS
